US05037990
b) Methyl 4-oxo-4-{4-[2-(N-acetylamino)-ethyl]-phenyl}-butyrate
272.7 g. (2.04 mol) aluminium chloride are introduced portionwise at 0° C. into a solution of 110.97 g. (0.68 mol) N-acetylphenethylamine and 93 ml. (0.75 mol) succinic acid methyl ester chloride in 1200 ml. anhydrous methylene chloride, the reaction mixture is further stirred for 1 hour at 0° C. and then warmed to ambient temperature. The reaction mixture is poured into hydrochloric acid/ice water, the organic phase is separated off, dried over anhydrous magnesium sulphate and evaporated. The residue is stirred up with hot diethyl ether, filtered off with suction and afterwashed with a little cold diethyl ether. Yield 154 g. (82% of theory); colourless crystals; m.p. 119.5° C.

reactant | aluminium chloride | 2.04 mol | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | N-acetylphenethylamine | 0.68 mol | C(C)(=O)NCCC1=CC=CC=C1 | C10H13NO
reactant | succinic acid methyl ester chloride | 0.75 mol | [Cl-].COC(CCC(=O)O)=O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Methyl 4-oxo-4-{4-[2-(N-acetylamino)-ethyl]-phenyl}-butyrate | O=C(CCC(=O)OC)C1=CC=C(C=C1)CCNC(C)=O | C15H19NO4
